US08492401B2
Concentrated HCl (2.8 ml, 33.9 mmol) was added to a solution of tert-butyl 2-phenyl-5-(pyrrolidin-1-ylmethyl)thiazole-4-carboxylate (2.1 g, 6.1 mmol) in THF (30 ml). The mixture was stirred at rt overnight, and concentrated in vacuo to give 2-phenyl-5-(pyrrolidin-1-ylmethyl)thiazole-4-carboxylate hydrochloride (1.5 g, 82% yield).

reactant | HCl | 33.9 mmol, 2.8 ml | Cl | ClH
reactant | tert-butyl 2-phenyl-5-(pyrrolidin-1-ylmethyl)thiazole-4-carboxylate | 6.1 mmol, 2.1 g | C1(=CC=CC=C1)C=1SC(=C(N1)C(=O)OC(C)(C)C)CN1CCCC1 | C19H24N2O2S
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-phenyl-5-(pyrrolidin-1-ylmethyl)thiazole-4-carboxylate hydrochloride | 1.5 g, 82% yield | Cl.C1(=CC=CC=C1)C=1SC(=C(N1)C(=O)O)CN1CCCC1 | InChI=1S/C15H16N2O2S.ClH/c18-15(19)13-12(10-17-8-4-5-9-17)20-14(16-13)11-6-2-1-3-7-11;/h1-3,6-7H,4-5,8-10H2,(H,18,19);1H
